US08535642B2
5,5′-(5,12-dihydroxy-2,15-dioxo-7,10-dioxa-3,14-diazahexadecane-3,14-diyl)bis(N1,N3-bis(2,3-dihydroxypropyl)-2,4,6-triiodo-N1,N3-dimethylisophthalamide)
To a stirred solution of water/methanol (4.9 ml, 2.5 ml) and potassium hydroxide (0.47 g, 8.4 mmol) at 40° C. was added 5-acetylamino-N,N′-bis-(2,3-dihydroxypropyl)-2,4,6-triiodo-N,N′-dimethyl isophthalamide (5.0 g, 6.5 mmol). To the clear solution was then added boric acid (0.28 g, 4.5 mmol). The mixture was cooled to room temperature and pH adjusted to 12.6. 2-{[2-(oxiran-2-ylmethoxy)-ethoxy]methyl}oxirane (0.382 g, 2.22 mmol) was added. The pH of the solution was adjusted to the interval 12.6-13. The reaction was left over weekend. To the solution was added HCl (18%) to pH 4. Salts were removed by treatment with ion exchanger AMB200C and IRA67. The solution was filtered from the resin and evaporated. The product was purified by preparative HPLC (column YMC amino 21.2×250 mm, solvents: A=water and B=acetonitrile; gradient 85-65% B over 25 min; flow 25.0 ml/min, UV detection at 214 nm and 254 nm), and obtained in 180 mg after lyophilisation, 5% yield. Analysis by LC-MS (column Agilent Zorbax SB-Aq 3.5 μm 3.0×100 mm, solvents: A=water/0.1% formic acid and B=acetonitrile/0.1% formic acid; gradient 0-30% B over 20 min; flow 0.3 ml/min, UV detection at 214 and 254 nm, ESI-MS) gave one broad peak centred at 9.6 minutes with m/z 1724.6 (MH+) corresponding to the structure.

reactant | potassium hydroxide | 8.4 mmol, 0.47 g | [OH-].[K+]
reactant | 5-acetylamino-N,N′-bis-(2,3-dihydroxypropyl)-2,4,6-triiodo-N,N′-dimethyl isophthalamide | 6.5 mmol, 5.0 g | C(C)(=O)NC=1C(=C(C(=C(C(=O)N(C)CC(CO)O)C1I)I)C(=O)N(C)CC(CO)O)I | C18H24I3N3O7
reactant | boric acid | 4.5 mmol, 0.28 g | B(O)(O)O | BH3O3
reactant | 2-{[2-(oxiran-2-ylmethoxy)-ethoxy]methyl}oxirane | 2.22 mmol, 0.382 g | O1C(C1)COCCOCC1OC1 | C8H14O4
reactant | HCl | Cl | ClH
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | water methanol | 4.9 ml | O.CO
product | 5,5′-(5,12-dihydroxy-2,15-dioxo-7,10-dioxa-3,14-diazahexadecane-3,14-diyl)bis(N1,N3-bis(2,3-dihydroxypropyl)-2,4,6-triiodo-N1,N3-dimethylisophthalamide) | 5% yield | OC(CN(C(C)=O)C=1C(=C(C(=C(C(=O)N(C)CC(CO)O)C1I)I)C(=O)N(C)CC(CO)O)I)COCCOCC(CN(C(C)=O)C=1C(=C(C(=C(C(=O)N(CC(CO)O)C)C1I)I)C(=O)N(CC(CO)O)C)I)O | C44H62I6N6O18
